US07244725B2
Lithium hydroxide monohydrate (11.80 g, 281.6 mmol) was added at room temperature over several minutes to a solution of 5-bromophthalide (20.0 g, 93.88 mmol) in a 2:1:1 solution of tetrahydrofuran/methanol/water (570 mL) and the reaction mixture stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure and azeotropically dried with benzene to give 5-Bromo-2-hydroxymethyl-benzoic acid as a white solid. The material was used without further purification: 1H NMR (300 MHz, CDCl3+CD3OD) δ 7.89 (d, J=8.3 Hz, 1H), 7.67 (d, J=1.9 Hz, 1H), 7.50 (dd, J=8.3, 1.9 Hz, 1H), 3.99 (s, 2H); ESI MS (negative mode) m/z 229 [C8H7BrO3−H]−. Sodium hyride (15.0 g, 375 mmol, 60% dispersion in mineral oil) was added in small portions over the course of 0.5 h at room temperature to a solution of 5-Bromo-2-hydroxymethyl-benzoic acid in tetrahydrofuran (235 mL) containing bromoacetic acid (14.35 g, 103.2 mmol) and sodium iodide (1.41 g, 9.4 mmol). The reaction mixture was heated at reflux overnight. The reaction mixture was cooled to room temperature and poured into water and then extracted with diethyl ether. The aqueous phase was acidified with 10% hydrochloric acid to pH 3–4 and extracted several times with ethyl acetate. The combined ethyl acetate phases were washed with water and saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated to yield -Bromo-2-carboxymethoxymethyl-benzoic acid as a white solid. The material was used without further purification: 1H NMR (300 MHz, CD3OD) δ 7.93–7.86 (m, 2H), 7.55–7.50 (m, 1H), 4.98 (s, 2H), 4.23 (s, 2H); ESI MS (negative mode) m/z 287 [C10H9BrO5−H]−.

reactant | Lithium hydroxide monohydrate | 281.6 mmol, 11.80 g | O.[OH-].[Li+]
reactant | 5-bromophthalide | 93.88 mmol, 20.0 g | BrC=1C=C2COC(=O)C2=CC1 | C8H5BrO2
solvent | tetrahydrofuran methanol water | 570 mL | O1CCCC1.CO.O
product | 5-Bromo-2-hydroxymethyl-benzoic acid | BrC=1C=CC(=C(C(=O)O)C1)CO | C8H7BrO3
